* Netlist for flyback.net

* Sources:
V1 2 0 5

* Components:
C1 3 0 100u
R1 3 0 10
L1 1 0 10u
M1 2 p1 1 1 mosfet
D1 3 1 diode

* Drivers:
Vdrv1 p1 1 PULSE(20 0  0 0 5.0u 10.0u)

* Models:
.model mosfet NMOS(Kp=60 Vto=4.5)
.model diode D

.tran 10m

.end
