* Netlist for sepic.net

* Sources:
V1 4 0 5

* Components:
R1 1 0 10
C1 1 0 100u
L1 2 0 10u
M1 3 p1 0 0 mosfet
L2 4 3 10u
D1 2 1 diode
C2 3 2 100u

* Drivers:
Vdrv1 p1 0 PULSE(20 0 0 0 0 5.0u 10.0u)

* Models:
.model mosfet NMOS(Kp=60 Vto=4.5)
.model diode D

.tran 10m

.end
